US09340538B2
Step A: Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate
2-(2-(4-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-6-methyl-1,4-dihydropyrimidin-2-yl)thiazol-4-yl)acetic acid (3 g, 6.2 mmol) was reacted with isopropylamine (0.55 g, 9.3 mmol) according to the procedure as described in Example 62, Step B to give the title compound as a yellow solid (1.46 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | 2-(2-(4-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-6-methyl-1,4-dihydropyrimidin-2-yl)thiazol-4-yl)acetic acid | 6.2 mmol, 3 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)O | C19H17BrFN3O4S
reactant | isopropylamine | 9.3 mmol, 0.55 g | C(C)(C)N | C3H9N
product | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 1.46 g, 45% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)NC(C)C | C22H24BrFN4O3S
